US05055481
(1-15) Ethyl 5-(4-hydroxyphenyl)-1-tetrazoleacetate
Feed materials: 5-(4-hydroxyphenyl)tetrazole and ethyl bromoacetate.

reactant | 5-(4-hydroxyphenyl)tetrazole | OC1=CC=C(C=C1)C1=NN=NN1 | C7H6N4O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl 5-(4-hydroxyphenyl)-1-tetrazoleacetate | OC1=CC=C(C=C1)C1=NN=NN1CC(=O)OCC | C11H12N4O3
